US08372970B2
Step 2: Synthesis of 6-(4-aminophenyl)-thiomorpholin-3-one (3)
Acetic acid (240 mL) was heated to 72° C., then Zn (25.38 g, 388 mmol) and [2-nitro-1-(4-nitrophenyl)-ethylsulfanyl]-acetic acid methyl ester (3.00 g, 10.00 mmol) were added in one portion. The well-stirred suspension was heated at reflux for 0.5 h, filtered through activated charcoal and evaporated. Dichloromethane (50 mL), water (30 mL) and 10% aqueous NaOH (50 mL) were added. The suspension was filtered through Perlite, the layers were separated and the aqueous layer was extracted with dichloromethane (2×20 mL). the combined organic layers were washed with water (10 mL), dried over sodium sulfate and evaporated. The residue was triturated with chloroform (10 mL) and the solid was collected and washed with chloroform (2 mL) to obtain the title product (0.225 g, 1.08 mmol, 11%). ESMS m/z 209 (M+H)+.

reactant | [2-nitro-1-(4-nitrophenyl)-ethylsulfanyl]-acetic acid methyl ester | 10.00 mmol, 3.00 g | COC(CSC(C[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H12N2O6S
catalyst | Zn | 388 mmol, 25.38 g | [Zn] | Zn
solvent | Acetic acid | 240 mL | C(C)(=O)O | C2H4O2
product | 6-(4-aminophenyl)-thiomorpholin-3-one | 1.08 mmol, 0.225 g, 11% | NC1=CC=C(C=C1)C1SCC(NC1)=O | C10H12N2OS
